US05382686
157.6 g of p-chloronitrobenzene and 116.1 g of sodium phenolate were initially introduced into a steel autoclave. At room temperature, 100 g of liquid ammonia were pumped into the pressure vessel, the mixture was heated to 70° C. and allowed to completely react with stirring over a period of 9 hours. The pressure of 28 bar initially observed dropped during the reaction to 22 bar. Removal of the ammonia by distillation and workup of the distillation residue gave-4-nitrodiphenyl ether with a yield of 213.8 g=99.4% of the theoretical yield. The product is 99.2% pure.

reactant | p-chloronitrobenzene | 157.6 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium phenolate | 116.1 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | ammonia | N | H3N
product | 4-nitrodiphenyl ether | C1=CC=C(C=C1)OC2=CC=C(C=C2)[N+](=O)[O-] | C12H9NO3
